US07737145B2
Following the above procedure, 1,1-dimethylethyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate and methyl 3-methoxy-4-(bromomethyl)benzoate are reacted together to give methyl 3-methoxy-4-[[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate.

reactant | 1,1-dimethylethyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | methyl 3-methoxy-4-(bromomethyl)benzoate | COC=1C=C(C(=O)OC)C=CC1CBr | C10H11BrO3
product | methyl 3-methoxy-4-[[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-yl]methyl]benzoate | COC=1C=C(C(=O)OC)C=CC1CN1[C@@H]2CN[C@H](C1)C2 | C15H20N2O3
